US09023846B2
A solution of 5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid [6-methyl-5-nitro-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-yl]-amide (226 mg, 0.490 mmol, prepared as described in the previous step) in ethanol (10 mL) and water (5 mL) was treated with ammonium chloride (262 mg, 4.90 mmol) and iron powder (137 mg, 2.45 mmol), and the mixture was heated to 50° C. for 4 h. Ethanol was removed in vacuo, and the resulting residue was diluted with water (20 mL) and extracted twice with EtOAc (30 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 12-g SEPRA Si 50 SPE column (Isco system: Flow rate=20 mL/min; Eluent=EtOAc/hexanes, 1:99 v/v for 10 min, then 1:99 to 1:4 v/v over 40 min) to yield 5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid [5-amino-6-methyl-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-yl]-amide as an off-white solid. Mass Spectrum (LCMS, APCI pos.): Calculated for C21H23F3N6O: 433.2 (M+H); Measured: 433.2.

reactant | 5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid [6-methyl-5-nitro-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-yl]-amide | CC1=C(C(=NC(=N1)C1=C(C=CC=C1)C(F)(F)F)NC(=O)C=1N(N=C(C1)C(C)(C)C)C)[N+](=O)[O-] | C21H21F3N6O3
reactant | water | 5 mL | O | H2O
reactant | ammonium chloride | 4.90 mmol, 262 mg | [Cl-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | iron | 2.45 mmol, 137 mg | [Fe] | Fe
product | 5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid [5-amino-6-methyl-2-(2-trifluoromethyl-phenyl)-pyrimidin-4-yl]-amide | NC=1C(=NC(=NC1C)C1=C(C=CC=C1)C(F)(F)F)NC(=O)C=1N(N=C(C1)C(C)(C)C)C | C21H23F3N6O
